US07960394B2
7-Bromo-2-{4-[(1-cyclopentylpiperidin-4-yl)oxy]-2-methoxyphenyl}-3-methylpyrido[3,2-d]pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 3-amino-5-bromopyridine-2-carboxylic acid, methylamine and 4-[(1-cyclopentylpiperidin-4-yl)oxy]-2-methoxybenzaldehyde.

reactant | 3-amino-5-bromopyridine-2-carboxylic acid | NC=1C(=NC=C(C1)Br)C(=O)O | C6H5BrN2O2
reactant | methylamine | CN | CH5N
reactant | 4-[(1-cyclopentylpiperidin-4-yl)oxy]-2-methoxybenzaldehyde | C1(CCCC1)N1CCC(CC1)OC1=CC(=C(C=O)C=C1)OC | C18H25NO3
product | 7-Bromo-2-{4-[(1-cyclopentylpiperidin-4-yl)oxy]-2-methoxyphenyl}-3-methylpyrido[3,2-d]pyrimidin-4(3H)-one | BrC1=CC=2N=C(N(C(C2N=C1)=O)C)C1=C(C=C(C=C1)OC1CCN(CC1)C1CCCC1)OC | C25H29BrN4O3
